US07560551B2
A mixture of 1-chloro-4-phenylphthalazine (0.0900 g, 0.374 mmol), 4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenol (0.110 g, 0.374 mmol), and potassium carbonate (0.129 g, 0.934 mmol) in 1 mL DMSO was heated in a sealed tube for 1 h. Upon cooling, a white precipitate formed. The material was partitioned between water and DCM. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give a crude solid, which was suspended in MeOH, sonicated, filtered and dried to give N-methyl-4-(2-(4-(4-phenylphthalazin-1-yloxy)phenoxy)pyridin-3-yl)pyrimidin-2-amine as a white solid. MS m/z=499 [M+H]+. Calc'd for C30H22N6O2: 498.5.

reactant | 1-chloro-4-phenylphthalazine | 0.374 mmol, 0.0900 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | 4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenol | 0.374 mmol, 0.110 g | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)O | C16H14N4O2
reactant | potassium carbonate | 0.934 mmol, 0.129 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | N-methyl-4-(2-(4-(4-phenylphthalazin-1-yloxy)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)OC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C30H22N6O2
